US04873362
To a mixture of 225 g of a 40% strength by weight aqueous solution of dimethylamine and 120 g of acetic acid was added with stirring and cooling, in the course of 15 min, a solution of 204 g of acetoxyacetaldehyde in 288 g (4 mol) of n-butyraldehyde, and the reaction mixture was subsequently stirred at 50° C. for 30 min. The reaction solutions were cooled down and the aqueous catalyst solution separated off to give, by fractional distillation, 169 g of 4-acetoxy-2-ethyl-2-butenal (b.p.=83°-93° C./6 mbar), corresponding to a yield of 54% of theory, based on acetoxyacetaldehyde, and 181 g of 2-ethyl-2-hexanal (b.p.=38°-70° C./20-60 mbar).

reactant | dimethylamine | CNC | C2H7N
reactant | acetoxyacetaldehyde | 204 g | C(C)(=O)OCC=O | C4H6O3
reactant | n-butyraldehyde | 4 mol, 288 g | C(CCC)=O | C4H8O
solvent | acetic acid | 120 g | C(C)(=O)O | C2H4O2
product | 4-acetoxy-2-ethyl-2-butenal | 169 g, yield of 54% | C(C)(=O)OCC=C(C=O)CC | C8H12O3
